US06414179B1
N-Benzoyl-O-dodecanylthioethyl-L-tyrosine ethyl ester
N-Benzoyl-L-tyrosine ethyl ester (4.0 g, 12.76 mmol) and dodecanylthioethanol [Patent Application WO 99/15129] (3.15 g, 12.76 mmol) were reacted as described in Example 2 for the preparation of 1-[2-{2-[bis(4-chlorophenyl)ethyl]methylamino}ethoxy]-4-bromo-benzene and gave the title material (4.6 g, 66%) as a white solid.

reactant | N-Benzoyl-L-tyrosine ethyl ester | 12.76 mmol, 4.0 g | C(C)OC([C@@H](NC(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)O)=O | C18H19NO4
reactant | dodecanylthioethanol | 12.76 mmol, 3.15 g | C(CCCCCCCCCCC)SC(C)O | C14H30OS
product | N-Benzoyl-O-dodecanylthioethyl-L-tyrosine ethyl ester | 4.6 g, 66% | C(C)OC([C@@H](NC(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCCSCCCCCCCCCCCC)=O | C32H47NO4S
